US06525042B1
4-(2,4-Diamino-6-pyrimidinyl)benzoic acid hydrochloride
In toluene (9 ml), 6-chloro-2,4-diaminopyrimidine (434 mg) was dissolved, followed by the addition of 4-carboxyphenylboronic acid (667 mg), ethanol (2.5 ml), sodium carbonate (635 mg), water (3.0 ml) and bis(triphenylphosphine)palladium (II) dichloride (65 mg). The resulting mixture was heated under reflux for 24 hours under an argon gas atmosphere. Ethyl acetate and water were added to the reaction mixture. The water layer so separated was made acidic with 2N hydrochloric acid. The insoluble matter was collected by filtration, washed with water and tetrahydrofuran and then dried, whereby the title compound (371 mg, 54%) was obtained.

reactant | 6-chloro-2,4-diaminopyrimidine | 434 mg | ClC1=CC(=NC(=N1)N)N | C4H5ClN4
reactant | 4-carboxyphenylboronic acid | 667 mg | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
reactant | sodium carbonate | 635 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium | 65 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 3.0 ml | O | H2O
product | 4-(2,4-Diamino-6-pyrimidinyl)benzoic acid hydrochloride | 371 mg, 54% | Cl.NC1=NC(=CC(=N1)N)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C11H10N4O2.ClH/c12-9-5-8(14-11(13)15-9)6-1-3-7(4-2-6)10(16)17;/h1-5H,(H,16,17)(H4,12,13,14,15);1H
